US08114316B2
3-Decyl-thieno[2,3-b]thiophene
A solution of 1-(thiophen-2-ylsulfanyl)-dodecan-2-one (3.40 g, 11.4 mmol) and amberlyst 15 (5.5 g) in chlorobenzene (200 mL) are refluxed over 4 A molecular sieves (Soxhlet) for 16 h. The reaction is cooled, filtered and concentrated under reduced pressure. The resulting residue is dissolved in petrol and filtered though a small plug of silica to remove coloured impurities. The organics are concentrated under reduced pressure and further purified by column chromatography over RP18 silica (eluant:acetonitrile). The first fraction is collected to afford the product as a colourless oil (1.8 g, 56%). M/Z 280 (M+). 1H NMR (300 MHz, CDCl3) δ 7.34 (1H, dd), 7.18 (1H, d), 6.93 (1H, d), 2.75 (2H, t), 1.70 (2H, quint), 1.40-1.20 (14H, m), 0.88 (3H, t). 13C NMR (75 MHz, CDCl3) δ 147.3, 136.9, 135.1, 127.8, 122.4, 119.0, 31.9, 29.8, 29.65, 29.63, 29.50, 29.49 (2C), 29.4, 22.7, 14.2.

reactant | 1-(thiophen-2-ylsulfanyl)-dodecan-2-one | 11.4 mmol, 3.40 g | S1C(=CC=C1)SCC(CCCCCCCCCC)=O | C16H26OS2
solvent | chlorobenzene | 200 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Decyl-thieno[2,3-b]thiophene | 1.8 g, 56% | C(CCCCCCCCC)C1=CSC=2SC=CC21 | C16H24S2
